US07541374B2
3.50 g of 3-(trifluoromethyl)-1H-pyrazole was suspended in 45 ml of water, and 3.2 g of 50% aqueous solution of sodium hydroxide was added to it. The mixture was cooled to 0° C., and then 3.20 g of bromine was added to the mixture, followed by stirring at room temperature for 7 hours. The reaction mixture was extracted by ethyl acetate. The organic layer was washed with water dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. Hexane was added to the residue, as a result, a crystal was formed. The crystal was collected to obtain 3.38 g of 4-bromo-3-(trifluoromethyl)-1H-pyrazole.

reactant | 3-(trifluoromethyl)-1H-pyrazole | 3.50 g | FC(C1=NNC=C1)(F)F | C4H3F3N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | bromine | 3.20 g | BrBr | Br2
solvent | water | 45 ml | O | H2O
product | 4-bromo-3-(trifluoromethyl)-1H-pyrazole | 3.38 g | BrC=1C(=NNC1)C(F)(F)F | C4H2BrF3N2
